US09034866B2
Methyl 10-bromo-2-carbamoyl-9-fluoro-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-3-carboxylate (2 g) was reacted with 2-Methyl-3-butyne-ol similar to as described in Procedure E to afford 2 g of methyl 2-carbamoyl-9-fluoro-10-(3-hydroxy-3-methyl-but-1-ynyl)-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-3-carboxylate following triteration from water. MS (Q1) 388 (M)+. Methyl 2-carbamoyl-9-fluoro-10-(3-hydroxy-3-methyl-but-1-ynyl)-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-3-carboxylate (1.5 g) was saponified with LiOH in water/THF to afford quantitative yield of 2-carbamoyl-9-fluoro-10-(3-hydroxy-3-methyl-but-1-ynyl)-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-3-carboxylic acid. MS (Q1) 383 (M)+.

reactant | Methyl 10-bromo-2-carbamoyl-9-fluoro-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-3-carboxylate | 2 g | BrC=1C(=CC2=C(C=3N(CCO2)C(=C(N3)C(N)=O)C(=O)OC)C1)F | C14H11BrFN3O4
reactant | 2-Methyl-3-butyne-ol | CC(CO)C#C | C5H8O
reactant | water | O | H2O
product | methyl 2-carbamoyl-9-fluoro-10-(3-hydroxy-3-methyl-but-1-ynyl)-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-3-carboxylate | 2 g | C(N)(=O)C=1N=C2N(CCOC3=C2C=C(C(=C3)F)C#CC(C)(C)O)C1C(=O)OC | C19H18FN3O5
